US07423158B2
A solution of (R)-2-fluro-2-(3-bromophenyl)-1-ethanol (5 mmol) and p-toluenesulfonyl chloride (5.1 mmol) in CH2Cl2 at ice bath temperatures is treated with stirring with pyridine. The reaction mixture is heated at reflux temperature under a nitrogen atmosphere for 16 h, cooled to room temperature, washed with 10% HCl, saturated NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo to give toluene4-sulfonic acid (S)-2-(3-bromophenyl)-2-fluoro-ethyl ester.

reactant | (R)-2-fluro-2-(3-bromophenyl)-1-ethanol | 5 mmol | F[C@@H](CO)C1=CC(=CC=C1)Br | C8H8BrFO
reactant | p-toluenesulfonyl chloride | 5.1 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | toluene4-sulfonic acid (S)-2-(3-bromophenyl)-2-fluoro-ethyl ester | BrC=1C=C(C=CC1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)F | C15H14BrFO3S
